US07282588B2
Preparation of N-phenyl-N′-{4-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}urea
To a solution of 4-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]aniline (0.13 mmol) and triethylamine (0.20 mmol) in tetrahydrofuran (1.5 mL) was added phenyl isocyanate (0.13 mmol). After 14 h, the reaction mixture was concentrated in vacuo and the residue was purified by Gilson reverse phase HPLC to provide the title compound. ESMS [M+H]+: 395.2

reactant | 4-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]aniline | 0.13 mmol | N1C=CC=2C1=NC=CC2C=2C(=NNC2)C2=CC=C(N)C=C2 | C16H13N5
reactant | triethylamine | 0.20 mmol | C(C)N(CC)CC | C6H15N
reactant | phenyl isocyanate | 0.13 mmol | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
product | N-phenyl-N′-{4-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}urea | C1(=CC=CC=C1)NC(=O)NC1=CC=C(C=C1)C1=NNC=C1C1=C2C(=NC=C1)NC=C2 | C23H18N6O
